US08686134B2
Following this, a second N-substitution was carried out on the 1-butyl-3-methylpiperidine using methyl iodide as an N-alkylating agent to form 1-butyl-1-methyl-3-methylpiperidinium iodide. A slight excess of methyl iodide was added dropwise to 1-butyl-3-methylpiperidine in dichloromethane keeping the temperature below 20° C. by an ice-water bath. The reaction mixture was then allowed to warm to room temperature and stirred until complete conversion of amine (as determined using 1H nmr). Diethyl ether was then added to the reaction mixture and the white precipitate filtered, washed with ether and dried in air. The white solid form 1-butyl-1-methyl-3-methylpiperidinium iodide melted at 204° C. 1H-NMR (300 MHz, CDCl3) δ 1.00 (d, 3H), 1.02 (t, 3H), 1.48 (m, 2H), 1.82 (m, 2H), 2.10 (m, 5H), 3.28 (s, 3H), 3.60 (m, 2H), 3.70 (m, 4H).

reactant | 1-butyl-3-methylpiperidine | C(CCC)N1CC(CCC1)C | C10H21N
reactant | methyl iodide | CI | CH3I
product | 1-butyl-1-methyl-3-methylpiperidinium iodide | [I-].C(CCC)[N+]1(CC(CCC1)C)C | InChI=1S/C11H24N.HI/c1-4-5-8-12(3)9-6-7-11(2)10-12;/h11H,4-10H2,1-3H3;1H/q+1;/p-1
